* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1217.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 3K
R2 N001 0 3K
V3 IN 0 AC 1
X§U1 IN N001 +V -V N002 LT1217
R3 N003 N002 75
R4 0 OUT 75
T1 N003 0 OUT 0 Td=75n Z0=75
.ac oct 10 10K 100Meg
* Cable Driver
.lib LTC.lib
.backanno
.end
